US07504410B2
7c) 3-(3-Aminophenyl)-2,4-imidazolidinedione
A solution of 3-(3-nitrophenyl)-2,4-imidazolidinedione (4.4 g, 20 mmol) and methanol (100 mL) was treated with 10% Pd/C (1.0 g) and placed under H2 (40 psi) for 2 h. The mixture was then filtered through celite and concentrated to afford the title compound (3.8 g).

reactant | 3-(3-nitrophenyl)-2,4-imidazolidinedione | 20 mmol, 4.4 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NCC1=O)=O | C9H7N3O4
catalyst | Pd/C | 1.0 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | 3-(3-Aminophenyl)-2,4-imidazolidinedione | 3.8 g | NC=1C=C(C=CC1)N1C(NCC1=O)=O | C9H9N3O2
